### PR TITLE
[Merged by Bors] - feat (Mathlib.RingTheory.Ideal.Operations) : Change hypotheses from ring to semiring

### PR DESCRIPTION
**Pull request by XavierXarles**
Moved some results from ring to semiring.    

--- 

In Mathlib.RingTheory.Ideal.Operations I moved two results from ring to semiring with the same proof, and  two I changed the proof.

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 1]
```diff
@@ -1701,6 +1701,31 @@ theorem comap_bot_of_injective : Ideal.comap f ⊥ = ⊥ :=
...
+/-- If `f : R ≃+* S` is a ring isomorphism and `I : Ideal R`, then `comap f.symm (comap f) = I`. -/
+@[simp]
+theorem comap_of_equiv (I : Ideal R) (f : R ≃+* S) :
+    (I.comap (f.symm : S →+* R)).comap (f : R →+* S) = I := by
+  rw [← RingEquiv.toRingHom_eq_coe, ← RingEquiv.toRingHom_eq_coe, comap_comap,
+    RingEquiv.toRingHom_eq_coe, RingEquiv.toRingHom_eq_coe, RingEquiv.symm_comp, comap_id]
+#align ideal.comap_of_equiv Ideal.comap_of_equiv
+
+/-- If `f : R ≃+* S` is a ring isomorphism and `I : Ideal R`, then `map f I = comap f.symm I`. -/
+theorem map_comap_of_equiv (I : Ideal R) (f : R ≃+* S) : I.map (f : R →+* S) = I.comap f.symm :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Operations.lean:1721]: This might be out of scope, but I think this equation should be reversed and renamed to `Ideal.comap_symm`. Also we need an `Ideal.map_symm`.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 2]
```diff
@@ -2198,6 +2202,15 @@ theorem ker_le_comap {K : Ideal S} (f : F) : RingHom.ker f ≤ comap f K := fun
   mem_comap.2 (((RingHom.mem_ker f).1 hx).symm ▸ K.zero_mem)
 #align ideal.ker_le_comap Ideal.ker_le_comap
 
+theorem map_isPrime_of_equiv {F' : Type*} [RingEquivClass F' R S] (f : F') {I : Ideal R}
+    [IsPrime I] : IsPrime (map f I) :=by
+  have h: (I.map f)=(I.map ((f:R  ≃+* S ):R →+* S)):= by congr
+  rw [h,@map_comap_of_equiv _ _ _ _ I (f:R  ≃+* S )]
+  exact Ideal.IsPrime.comap (RingEquiv.symm (f : R ≃+* S ))
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Operations.lean:2209]:
```suggestion
theorem map_isPrime_of_equiv {F' : Type*} [RingEquivClass F' R S] (f : F') {I : Ideal R}
    [IsPrime I] : IsPrime (map f I) := by
  have h: (I.map f) = (I.map ((f : R ≃+* S) : R →+* S)):= by congr
  rw [h, @map_comap_of_equiv _ _ _ _ I (f : R ≃+* S)]
  exact Ideal.IsPrime.comap (RingEquiv.symm (f : R ≃+* S))
```

**Comment by fpvandoorn** [comment]
There was indeed a mistake in the CI: #8471. Merged master, which should fix it.

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Operations.lean:1721]: The latter should be flipped as well. Maybe make it into a simp lemma as well.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 3]
```diff
@@ -1701,6 +1701,40 @@ theorem comap_bot_of_injective : Ideal.comap f ⊥ = ⊥ :=
...
+#align ideal.map_comap_of_equiv Ideal.map_comap_of_equiv
+
+/-- If `f : R ≃+* S` is a ring isomorphism and `I : Ideal R`, then `comap f.symm I = map f I`. -/
+@[simp]
+theorem comap_symm (I : Ideal R) (f : R ≃+* S) : I.comap f.symm = I.map f :=
+  (map_comap_of_equiv I f).symm
+
+/-- If `f : R ≃+* S` is a ring isomorphism and `I : Ideal R`, then `map f.symm I = comap f I`. -/
+@[simp]
+theorem map_symm (I : Ideal S) (f : R ≃+* S) :  I.map f.symm = I.comap f :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Operations.lean:1733]:
```suggestion
theorem map_symm (I : Ideal S) (f : R ≃+* S) : I.map f.symm = I.comap f :=
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 4]
```diff
@@ -2198,6 +2211,14 @@ theorem ker_le_comap {K : Ideal S} (f : F) : RingHom.ker f ≤ comap f K := fun
   mem_comap.2 (((RingHom.mem_ker f).1 hx).symm ▸ K.zero_mem)
 #align ideal.ker_le_comap Ideal.ker_le_comap
 
+theorem map_isPrime_of_equiv {F' : Type*} [RingEquivClass F' R S] (f : F') {I : Ideal R}
+    [IsPrime I] : IsPrime (map f I) := by
+  have h: (I.map f)=(I.map ((f : R  ≃+* S ) : R →+* S)) := by congr
+  rw [h,map_comap_of_equiv I (f : R  ≃+* S )]
+  exact Ideal.IsPrime.comap (RingEquiv.symm (f : R ≃+* S ))
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Operations.lean:2218]:
```suggestion
    [IsPrime I] : IsPrime (map f I) := by
  have h : I.map f = I.map ((f : R ≃+* S) : R →+* S) := rfl
  rw [h, map_comap_of_equiv I (f : R ≃+* S)]
  exact Ideal.IsPrime.comap (RingEquiv.symm (f : R ≃+* S))
```

**Review by erdOne — COMMENTED** [review]
Some comments on spaces. Otherwise LGTM.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 5]
```diff
@@ -1701,6 +1701,40 @@ theorem comap_bot_of_injective : Ideal.comap f ⊥ = ⊥ :=
 
 end Injective
 
+/-- If `f : R ≃+* S` is a ring isomorphism and `I : Ideal R`, then `map f (map f.symm) = I`. -/
```
Comment (fpvandoorn) [inline Mathlib/RingTheory/Ideal/Operations.lean:1704]:
```suggestion
/-- If `f : R ≃+* S` is a ring isomorphism and `I : Ideal R`, then `map f (map f.symm I) = I`. -/
```
also in docs below

I also don't like the name, but that should probably be done in a different PR

bors d+

Comment (fpvandoorn) [reply Mathlib/RingTheory/Ideal/Operations.lean:1704]: Actually, it should say `map f.symm (map f I) = I`, since that is what the lemma states.

**Comment by fpvandoorn** [comment]
Can you please address my other comments as well?

**Comment by XavierXarles** [comment]
> Can you please address my other comments as well?

I hope I did all requested changes. The name map_comap_of_equiv (and all the others) are not mine, so I didn't changed, not to affect other parts of mathlib.

**Comment by fpvandoorn** [comment]
Yes, I had mixed feelings when asking you to fix something that was already wrong before, but thanks for fixing it!

bors merge
